Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:5](#[N:6])[H:9].[N:3](=[C:4]([H:13])[H:14])[H:12]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],31.640008169786405
[C:1]([C:2](/[N:3]=[C:4](/[O:5][H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],22.321166603414394
[O+:1]1=[C:2]([H:8])[N:3]([H:9])[C-:4]([H:10])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:11])[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],49.849206696747004
[N:1](=[C:2](\[C:5]#[N:6])[H:8])\[H:7].[O:3]=[C:4]([H:9])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],58.67848544557341
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[N:4][O:5][H:12])=[C:6]([H:13])[H:14].[H:7][H:15],92.92411645998249
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2](/[C:3](=[C:4](\[C:5]([C:6](=[O:7])[H:15])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10])[H:8],30.492035269875608
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[O:1]=[C:2]([C:5]#[N:6])[H:7],79.28276350806621
[C:1]([O:2][C:3]([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],12.9307689066977
[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]=[N:6][C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],85.4267016325758
[C:1]([N:2]([C:3](/[C:5](=[N:4]/[H:11])[H:12])=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],83.94615989228974
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([N:4]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],55.9534601795951
[O:1]([C:2]([C@:4]1([H:12])[C:3]([H:11])=[C:6]=[C:7]([H:13])[O:5]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],27.540572579780196
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])=[C:5]([H:14])[O:6]2.[H:12][H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,77.84763165664631
[C+:1]([N:2]([C:3]([C:4]#[N:5])=[C:6]=[N-:7])[H:11])([H:8])[H:10].[H:9][H:12]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],23.6511899760379
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](#[C:2][C:3](=[C:4]([H:9])[H:10])[H:8])[H:7].[C:5](=[O:6])([H:11])[H:12],44.814272739237005
[C:1]([O:5][C:4](=[C:2]=[O:3])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],46.984352752276806
[C:1]([C:2][H:9])([C:6]1([H:16])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],10.949688935083302
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](#[N:3])[N:4]([C:5](=[O:6])[H:12])[H:11]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],86.0326602836403
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1]1=[C:2]([H:8])[O:3][C:4]([H:9])([H:10])[C:5][N:6]1[H:7],72.5396827564895
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]1([H:7])=[O+:2][C@@:3]12[C:4]([H:9])([H:10])[O:5][C-:6]2[H:11].[H:8][H:12],114.428365440487
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]1([H:11])[O:4][C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[O:7][H:16])([H:8])([H:9])[H:10],114.6569003312
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:4]([N:5](/[C:6](=[N:7]\[C:2]#[C:3][H:8])[H:11])[H:10])[H:9],129.003402239638
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],92.4024404235779
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@:2]1([H:9])[C:3]([N+:6]#[C-:5])=[N:4]1)([H:7])[H:8],64.71003867740579
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:5][C:4](=[C:6]([H:10])[H:12])[H:11])([H:7])([H:8])[H:9],70.231898597894
[O:1]1[C@@:2]2([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C@:5]1([H:13])[C:6]2=[C:7]([H:12])[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],84.7183529430349
